US07262212B2
m-Chloroperbenzoic acid (20.6 g, 95.6 mmol) was gradually added to a solution of 4-methoxymethoxy-1-butene (10.46 g, 90.1 mmol) in methylene chloride (250 ml) while cooling in an ice-bath, the mixture was stirred at room temperature for 6 hours. The reaction mixture was filtered, and the filtrate was washed with a 10% sodium sulfide aqueous solution and sodium hydrogencarbonate aqueous solution, dried over magnesium sulfate. After filtration, the filtrate was concentrated under reduced pressure to afford 2-(2-methoxymethoxyethyl)oxirane (10.3 g, 86%) as a colorless oil.

reactant | m-Chloroperbenzoic acid | 95.6 mmol, 20.6 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 4-methoxymethoxy-1-butene | 90.1 mmol, 10.46 g | COCOCCC=C | C6H12O2
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
product | 2-(2-methoxymethoxyethyl)oxirane | 10.3 g, 86% | COCOCCC1OC1 | C6H12O3
